US06693108B2
1-(5-Methyl-3-phenyl-isoxazol-4-yl)-ethanone (Compound 3).
To a solution of pentane-2,4-dione (13.23 g, 0.132 mol) and triethylamine (13.35 g, 0.132 mol) in ethanol was added α-chlorobenzaldehyde oxime (13.70 g, 0.088 mol) at room temperature. The reaction mixture was stirred overnight at room temperature. To the reaction was added ethyl acetate and saturated aqueous NaCl. The organic phase was washed with saturated aqueous NaCl (twice) and dried with MgSO4, and the organic solvent was removed under reduced pressure to provide 17.7 g of the title compound. The yield was 100%.

reactant | pentane-2,4-dione | 0.132 mol, 13.23 g | CC(CC(C)=O)=O | C5H8O2
reactant | triethylamine | 0.132 mol, 13.35 g | C(C)N(CC)CC | C6H15N
reactant | α-chlorobenzaldehyde oxime | 0.088 mol, 13.70 g | ClC(C1=CC=CC=C1)=NO | C7H6ClNO
reactant | NaCl | [Na+].[Cl-]
solvent | ethanol | C(C)O | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(5-Methyl-3-phenyl-isoxazol-4-yl)-ethanone | 17.7 g, yield was 100% | CC1=C(C(=NO1)C1=CC=CC=C1)C(C)=O | C12H11NO2
